US09328067B2
methyl 3-(((2-amino-4-fluorophenyl)thio)methyl)benzoate
Following General Procedure A, the title compound (750 mg, 88%) was prepared from 2-amino-4-fluorobenzenethiol (417 mg, 2.92 mmol) and methyl 3-(bromomethyl)benzoate (666 mg, 2.92 mmol), K2CO3 (1.21 g, 8.75 mmol) in DMF (10 ml).

reactant | 2-amino-4-fluorobenzenethiol | 2.92 mmol, 417 mg | NC1=C(C=CC(=C1)F)S | C6H6FNS
reactant | methyl 3-(bromomethyl)benzoate | 2.92 mmol, 666 mg | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | K2CO3 | 8.75 mmol, 1.21 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl 3-(((2-amino-4-fluorophenyl)thio)methyl)benzoate | 750 mg, 88% | NC1=C(C=CC(=C1)F)SCC=1C=C(C(=O)OC)C=CC1 | C15H14FNO2S
